US06274588B1
To a solution of 2.60 g (9.99 mmol) 2-methylsulfanyl-4-o-tolyl-pyrimidine-5-carboxylic acid in 70 ml CH2Cl2 2.78 ml (19.98 mmol) triethylamine, 1.34 g (9.99 mmol) 1-hydroxybenzotriazole and 1.91 g (9.99 mmol) N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride 1.78 g (11.99 mmol) (3,5-dimethoxy-benzyl)-methyl-amine were added. The reaction mixture was stirred for 16 hrs. The reaction mixture was diluted with 100 ml CH2Cl2, washed with 100 ml 0.5N HCl and 100 ml H2O. The aqueous layers were backextracted with 100 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 40:1) to give 3.20 g (82%) 2-methylsulfanyl-4-o-tolyl-pyrimidine-5-carboxylic acid (3,5-dimethyl-benzyl)-methyl-amide as a pale yellow oil, MS (EI): 391 (M+).

reactant | 2-methylsulfanyl-4-o-tolyl-pyrimidine-5-carboxylic acid | 9.99 mmol, 2.60 g | CSC1=NC=C(C(=N1)C1=C(C=CC=C1)C)C(=O)O | C13H12N2O2S
reactant | 1-hydroxybenzotriazole | 9.99 mmol, 1.34 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 9.99 mmol, 1.91 g | Cl.CN(CCCN=C=NCC)C
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 19.98 mmol, 70 ml | C(Cl)Cl | CH2Cl2
product | 2-methylsulfanyl-4-o-tolyl-pyrimidine-5-carboxylic acid (3,5-dimethyl-benzyl)-methyl-amide | 3.20 g, 82% | CC=1C=C(CN(C(=O)C=2C(=NC(=NC2)SC)C2=C(C=CC=C2)C)C)C=C(C1)C | C23H25N3OS
